US08309542B2
(g) 2-bromo-5,6-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine
1.0 g (3.6 mmol) 5,6-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine (as the trifluoroacetate salt) are dissolved in 60 ml of water and at the temperature of an ice bath combined with a solution of 1.0 g (8.5 mmol) potassium bromide and 182 μl (3.6 mmol) bromine in 20 ml of water. The mixture is stirred for 2.5 hours in the ice bath and then extracted twice with 100 ml ethyl acetate. The combined organic phases are washed with sat. sodium chloride solution, then dried on sodium sulphate and evaporated down i. vac. The crude product thus obtained is purified by chromatography on silica gel (eluant DCM/methanol 50:1).

reactant | 5,6-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | 3.6 mmol, 1.0 g | CC1CC2=C(CN1C)SC=C2 | C9H13NS
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | potassium bromide | 8.5 mmol, 1.0 g | [Br-].[K+]
reactant | bromine | 3.6 mmol, 182 μl | BrBr | Br2
solvent | water | 60 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-bromo-5,6-dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | BrC1=CC2=C(CN(C(C2)C)C)S1 | C9H12BrNS
